US07288537B2
A solution of ((R)-3-iodo-1-methyl-propyl)-carbamic acid tert-butyl ester (0.038 mg, 0.13 mmol), 3-(4-chloro-phenoxy)-azetidine hydrochloride (0.030 g, 0.13 mmol) and triethylamine (0.073 ml, 0.52 mmol) in DMF (1 ml) is stirred at room temperature for 18 hours. The reaction mixture is partitioned between ethylacetate and a saturated solution of sodium bicarbonate. The organic phase is washed with water and brine, dried over magnesium sulphate and evaporated. The crude product is purified by flash silica chromatography using 1:1 ethylacetate:hexane as eluent to afford {(R)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-methyl-propyl}-carbamic acid tert-butyl ester. [M+H] 355.33

reactant | ((R)-3-iodo-1-methyl-propyl)-carbamic acid tert-butyl ester | 0.13 mmol, 0.038 mg | C(C)(C)(C)OC(N[C@@H](CCI)C)=O | C9H18INO2
reactant | 3-(4-chloro-phenoxy)-azetidine hydrochloride | 0.13 mmol, 0.030 g | Cl.ClC1=CC=C(OC2CNC2)C=C1
reactant | triethylamine | 0.52 mmol, 0.073 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | {(R)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-methyl-propyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CCN1CC(C1)OC1=CC=C(C=C1)Cl)C)=O | C18H27ClN2O3
